US05565560
To a stirred mixture of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (150 mg, 0.189 mmol, 1 eq) and Cu(OAc)2 (6 mg, 0.033 mmol, 0.17 eq) in CH2Cl2 (2.5 mL) in a round bottom flask equipped with a magnetic stir-bar was added tri(2-naphthyl)bismuth diacetate [prepared immediately prior to use by addition of acetic acid (0.075 ml, 1.31 mmol, 6.9 eq) to a suspension of tri(2-naphthyl)bismuth carbonate in CH2Cl2 (2.5 ml)]. The reaction flask was fitted with a reflux condenser and the mixture warmed to 40° C. After 4 hours the heating was discontinued and the mixture stirred at room temperature for 16 hours. The mixture was then diluted with saturated aqueous NaHCO3 and extracted 2 times with CH2Cl2. The extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The product was isolated and purified by preparative TLC on silica gel (3:1 hexanes/acetone) to afford 32 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(naphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone. (1H NMR, 13C NMR, and mass spectral analysis were consistent with the desired structure).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.189 mmol, 150 mg, 1 eq | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | tri(2-naphthyl)bismuth diacetate | C(C)(=O)O.C(C)(=O)O.C1=C(C=CC2=CC=CC=C12)[Bi](C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1
reactant | acetic acid | 1.31 mmol, 0.075 ml, 6.9 eq | C(C)(=O)O | C2H4O2
reactant | tri(2-naphthyl)bismuth carbonate | C(O)(O)=O.C1=C(C=CC2=CC=CC=C12)[Bi](C1=CC2=CC=CC=C2C=C1)C1=CC2=CC=CC=C2C=C1
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Cu(OAc)2 | 0.033 mmol, 6 mg, 0.17 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(naphth-2-yloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | 32 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC1=CC=CC=C1C=C2)OC)C)C)O)=O | C53H75NO12
